US07297816B2
(S)-2-[4-Chloro-2-(2,6-difluoro-benzenesulfonylamino)-benzoylamino]-3-(3,4-dichloro-phenyl)-propionic acid
2-(2,6-Difluoro-benzenesulfonylamino)-4-iodo-benzoic acid was coupled to (S)-2-amino-3-(3,4-dichloro-phenyl)-propionic acid methyl ester hydrochloride as in EXAMPLE 1, Part C. The resulting methyl ester was hydrolyzed as in EXAMPLE 2, Part E, to afford the title compound. HPLC: RT=11.00 min. MS (ESI−): mass calcd. for C22H15Cl3F2N2O5S2, 563.79; m/z found, 561/563 [M−H]−. 1H NMR (500 MHz, CDCl3): 11.45 (s, 1H), 7.75 (d, 1.9, 1H), 7.56-7.45 (m, 1H), 7.36 (d, J=8.2, 1H), 7.29-7.25 (m, 2H), 7.05-6.97 (m, 4H), 6.62 (d, J=7.0, 1H), 5.03 (q, J=5.5, 1H), 3.39-3.17 (m, 2H).

reactant | 2-(2,6-Difluoro-benzenesulfonylamino)-4-iodo-benzoic acid | FC1=C(C(=CC=C1)F)S(=O)(=O)NC1=C(C(=O)O)C=CC(=C1)I | C13H8F2INO4S
reactant | (S)-2-amino-3-(3,4-dichloro-phenyl)-propionic acid methyl ester hydrochloride | Cl.COC([C@H](CC1=CC(=C(C=C1)Cl)Cl)N)=O
product | (S)-2-[4-Chloro-2-(2,6-difluoro-benzenesulfonylamino)-benzoylamino]-3-(3,4-dichloro-phenyl)-propionic acid | ClC1=CC(=C(C(=O)N[C@H](C(=O)O)CC2=CC(=C(C=C2)Cl)Cl)C=C1)NS(=O)(=O)C1=C(C=CC=C1F)F | C22H15Cl3F2N2O5S
